US07557137B2
Step A(3). (1S,2S) [2-(3,4-Difluoro-phenyl)-1-oxiranyl-ethyl]-carbamic acid tert-butyl ester
A solution of (1S)-[3-Bromo-1-(3,4-difluoro-benzyl)-2-oxo-propyl]-carbamic acid tert-butyl ester (0.14 g, 0.36 mmol) in ethanol:THF (2:1) (3 mL) was cooled to 0° C. and treated with sodium borohydride (0.014 g, 0.36 mmol) in one portion. After 30 minutes the cooling bath was removed and the reaction mixture was stirred at ambient temperature for 12 hours. The solvent was removed and the residue partitioned between saturated sodium bicarbonate solution (20 mL) and ethyl acetate (20 mL). The organic phase was washed with saturated sodium bicarbonate solution (25 mL), separated, dried (MgSO4) and the solvent removed at reduced pressure. The product was recrystallized from hexane to give the desired product as the major isomer (>9:1) by NMR (0.095 g, 90%). MS: 300 (M+H, 100%).

reactant | (1S)-[3-Bromo-1-(3,4-difluoro-benzyl)-2-oxo-propyl]-carbamic acid tert-butyl ester | 0.36 mmol, 0.14 g | C(C)(C)(C)OC(N[C@H](C(CBr)=O)CC1=CC(=C(C=C1)F)F)=O | C15H18BrF2NO3
reactant | sodium borohydride | 0.36 mmol, 0.014 g | [BH4-].[Na+]
solvent | ethanol THF | 3 mL | C(C)O.C1CCOC1
product | (1S,2S) [2-(3,4-Difluoro-phenyl)-1-oxiranyl-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC1=CC(=C(C=C1)F)F)[C@@H]1OC1)=O | C15H19F2NO3
